datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O:21][H:20].Nn1cn[n:10]c1>>CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O-:21].Nn1cn[n+:10]([H:20])c1 10=20;20,21=21",
"C(COCCc1nnn[n:21]1[H:20])OCCc1nnn[n-]1.CCCCSCC(=O)[O-:10]>>C(COCCc1nnn[n-:21]1)OCCc1nnn[n-]1.CCCCSCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCCn1nn[n:10]c1N.c1ccc(C[NH2+]CC[NH2+:21][H:20])cc1>>CCCn1nn[n+:10]([H:20])c1N.c1ccc(C[NH2+]CC[NH2:21])cc1 10=20;20,21=21",
"Cc1cc(C)[n:10]c(C)c1CO.c1ccc(CN2CCC([NH2+:21][H:20])CC2)cc1>>Cc1cc(C)[n+:10]([H:20])c(C)c1CO.c1ccc(CN2CCC([NH2:21])CC2)cc1 10=20;20,21=21",
"CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O-:10].OCC(S)C[S:21][H:20]>>CC/C=C/CC(=O)N[C@H]1C(=O)N2[C@H]1SC(C)(C)[C@H]2C(=O)[O:10][H:20].OCC(S)C[S-:21] 10=20;20,21=21",
"C[N+](C)(C)Cc1ccccc1[O:21][H:20].c1ccc2c(N[O-:10])ccnc2c1>>C[N+](C)(C)Cc1ccccc1[O-:21].c1ccc2c(N[O:10][H:20])ccnc2c1 10=20;20,21=21",
"Ic1ccc(-c2nnn[n-:10]2)cc1.N#CC(C#N)=[N+:21](Nc1ccccc1)[H:20]>>Ic1ccc(-c2nnn[n:10]2[H:20])cc1.N#CC(C#N)=[N:21]Nc1ccccc1 10=20;20,21=21",
"COc1cccc([N-:10]S(=O)(=O)c2ccccc2)c1.Cc1ccc(C(=O)[O:21][H:20])cc1Cl>>COc1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1.Cc1ccc(C(=O)[O-:21])cc1Cl 10=20;20,21=21",
"C=CC[NH2+]CCC[NH+:21](CC=C)[H:20].NC(=O)C(N)Cc1ccc([O-:10])cc1>>C=CC[NH2+]CCC[NH:21]CC=C.NC(=O)C(N)Cc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.O=C(CC[NH2:10])NC(Cc1c[nH]cn1)C(=O)[O-]>>CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.O=C(CC[NH2+:10][H:20])NC(Cc1c[nH]cn1)C(=O)[O-] 10=20;20,21=21",
"CSc1ccc([O:21][H:20])cc1.C[N:10](C)c1ccc(Cl)cc1>>CSc1ccc([O-:21])cc1.C[N+:10](C)(c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"Cc1cc([O-])[nH+]c[n+:21]1[H:20].[NH3+]CCC(=O)[O-:10]>>Cc1cc([O-])[nH+]c[n:21]1.[NH3+]CCC(=O)[O:10][H:20] 10=20;20,21=21",
"C[NH2+]CC[S:21][H:20].O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-:10]>>C[NH2+]CC[S-:21].O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O:10][H:20] 10=20;20,21=21",
"BrC1=C[NH+:21]([H:20])C=N1.O=C1CCC(C(=O)[O-:10])N1>>BrC1=C[NH:21]C=N1.O=C1CCC(C(=O)[O:10][H:20])N1 10=20;20,21=21",
"[S-]c1nc2nccnc2c[n:10]1.c1ccc2c(c1)CNCCC[NH+:21]([H:20])Cc1ccccc1OCCCO2>>[S-]c1nc2nccnc2c[n+:10]1[H:20].c1ccc2c(c1)CNCCC[NH:21]Cc1ccccc1OCCCO2 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCC(C)[NH+:10](CC(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cn1cncc1CC(NC(=O)CC[NH2:10])C(=O)[O-].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cn1cncc1CC(NC(=O)CC[NH2+:10][H:20])C(=O)[O-].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=O.CC[N+:21](C)(NC)[H:20]>>CC1(C)NC(=S)[N:10]([H:20])C1=O.CC[N:21](C)NC 10=20;20,21=21",
"COc1cnc[n:10]c1[O-].O=S(=O)(Nc1ncccn1)c1ccc([NH2+:21][H:20])cc1>>COc1cnc[n+:10]([H:20])c1[O-].O=S(=O)(Nc1ncccn1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"COc1nc[n+:21]([H:20])c2ccccc12.c1cc(CC[NH2:10])ccn1>>COc1nc[n:21]c2ccccc12.c1cc(CC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc([O-:10])c2ncsc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc([O:10][H:20])c2ncsc2c1 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])CCCC(=O)C(O)CCC1.[NH3+]CCCCCCC(=O)[O-:10]>>CC(C)(C)[N:21]1CCCC(=O)C(O)CCC1.[NH3+]CCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CCOCCN(C)C.O=[N+]([O-])c1ccccc1C[NH2+:21][H:20]>>CC[N+:10](CC)(CCOCCN(C)C)[H:20].O=[N+]([O-])c1ccccc1C[NH2:21] 10=20;20,21=21",
"CCCCCCCCCCCCCC[N+:21](CCO)(CC(C)O)[H:20].COc1cc2c([O-:10])cc(C)[nH+]c2c2c(C)c(C)oc12>>CCCCCCCCCCCCCC[N:21](CCO)CC(C)O.COc1cc2c([O:10][H:20])cc(C)[nH+]c2c2c(C)c(C)oc12 10=20;20,21=21",
"CC(O)C[NH:10]CC[NH3+].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(O)C[NH+:10](CC[NH3+])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)COc1ccc(C(=O)[O-:10])cc1.NC(=O)CCCCc1cccc[n+:21]1[H:20]>>CC(C)COc1ccc(C(=O)[O:10][H:20])cc1.NC(=O)CCCCc1cccc[n:21]1 10=20;20,21=21",
"CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10].CC1=CC(=O)Oc2cc([O:21][H:20])c(Cl)cc21>>CC(C)C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20].CC1=CC(=O)Oc2cc([O-:21])c(Cl)cc21 10=20;20,21=21",
"C[NH+](c1ccccc1)C(O)[O-:10].Cc1c[n+:21]([H:20])c(C)cn1>>C[NH+](c1ccccc1)C(O)[O:10][H:20].Cc1c[n:21]c(C)cn1 10=20;20,21=21",
"CC(C)N/C=[NH+]/c1ccc(-c2c[n+:21]([H:20])cn2C)cc1.O=C1[C@@H]2C[C@@H](C[N:10]3CCCC[C@@H]23)[C@H]2CCCCN12>>CC(C)N/C=[NH+]/c1ccc(-c2c[n:21]cn2C)cc1.O=C1[C@@H]2C[C@@H](C[N+:10]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
